GaN synchronous buck converter, CLOSED LOOP: regulated 50 V through line and load steps
* ===================================================================
* buck_closed.cir -- the converter with the loop closed.
*
* WHY THIS EXISTS
* buck.cir runs the converter OPEN LOOP: the duty ratio is a .param and
* the PWM comes from two PULSE sources. That is the right way to measure
* switching behaviour, because nothing is moving the operating point
* while you measure it. But it is not a converter anyone would build.
* Its output is whatever D*Vin minus the losses happens to be -- 48.5 V
* when you asked for 50 -- and it has no answer at all to the load
* changing or the battery sagging, which in an energy-storage system is
* the normal condition rather than the exception.
*
* This closes the loop, and then disturbs it on purpose.
*
* THE LOOP, STAGE BY STAGE
*   1. divider     out -> fb, 1/20, so 50 V out is 2.5 V at the pin
*   2. error amp   a transconductance stage into a type-II network:
*                  Cc sets the integrator (zero DC error), Rz the zero
*                  that buys back phase at crossover, Cp the high
*                  frequency pole that stops the switching ripple being
*                  amplified into the control node
*   3. modulator   v(comp) against a 0->1 sawtooth at FSW: trailing-edge
*                  voltage-mode PWM, the same modulator a UC3843-class
*                  part implements
*   4. dead time   each device turns ON one DT after its command rises
*                  and OFF the instant it falls, which is what the FPGA's
*                  dead_time_gen does in rtl/. Built here from a delay
*                  line and two AND terms rather than by drawing the
*                  edges, so the dead time is generated, not assumed.
*   5. the SAME segmented gate drivers, at the SAME shipped control word
*
* WHAT IS DISTURBED, AND WHEN
*   0      soft start: the reference is ramped, not stepped, so the
*          inductor current at start-up is a design choice
*   TLOAD  load step 10 ohm -> 5 ohm. Output current doubles.
*   TLINE  line step 100 V -> 120 V. This is the battery-voltage swing
*          an energy-storage system lives with all day.
*
* The compensator is deliberately unaggressive. A faster loop would show
* a smaller undershoot and would be the wrong thing to claim: this one is
* stable across both disturbances at one fixed set of component values,
* which is the honest demonstration.
*
* TSS IS 600 us BECAUSE 200 us WAS NOT GOOD ENOUGH. At the end of a
* reference ramp the loop has to absorb a step in dv/dt, and how much it
* overshoots doing so depends on how fast the ramp was. Measured:
*     TSS = 200 us  ->  +10.8 % start-up overshoot
*     TSS = 400 us  ->   +5.5 %
*     TSS = 600 us  ->   +3.6 %   <- shipped
* The first version of this deck shipped 200 us and the slide said 10.9 %
* was "the one number here we are not proud of". Three runs was the whole
* cost of not having to say that.
* ===================================================================

.include ../models/egan.lib
.include ../models/segdrv.lib

* ==================== PARAM BLOCK ==================================
.param VIN=100
.param VSTEP=120
.param FSW=500k
.param LOUT=22u
.param COUT=10u
.param RLOAD=10
.param RSTEP=10                       $ switched in parallel -> 5 ohm
.param VOREF=50
.param KDIV=0.05                      $ 1/20
.param VDRV=5
.param VNEG=0
.param NPU_LS=8
.param NPD_LS=8
.param NPU_HS=8
.param NPD_HS=8
.param DT=15n
.param CLKEN=1
.param RUNIT=8
.param TJ=25
* ---- output filter, sized for THIS job ----
* buck.cir's 4.7 uF / 0.3 ohm was sized for an open-loop switching study,
* where output ripple is a cosmetic number nobody feeds back. Here it is
* fed back, and at 4.7 uF the ripple reaching the modulator was large
* enough to period-double the loop at fsw/2 -- measured, not feared: the
* output ran a 4 us triangle on a 2 us switching period. Sizing the
* filter for the job it now has removes the cause rather than filtering
* the symptom in the compensator.
.param ESR=0.05
* ---- compensator: TYPE III, and why it is not type II ----
* A type-II compensator was built first and it does not work here, which is
* worth recording because the reason is structural rather than a bad value.
* Type II has one zero, so its phase never gets past -90 deg + the zero. The
* output LC contributes -180 deg above its corner. Crossing over above the
* corner therefore lands at negative phase margin no matter how the zero is
* placed, and crossing over below it leaves a loop too slow to settle between
* two disturbances. Both failures were measured, not assumed:
*
*   GMEA = 10.4 uS  crossover below the LC corner -> 42.6 V at 340 us,
*                   still climbing; the loop cannot settle in time
*   GMEA = 30 uS    23 V of drift on the cycle average -- unstable
*   GMEA = 100 uS   98 V swing -- the loop is railing, not regulating
*
* And the first attempt of all, at 4.7 uF with the HF pole at 132 kHz,
* period-doubled: a 4 us triangle on a 2 us switching period, which is the
* classic fsw/2 limit cycle and is visible in the raw waveform.
*
* Type III adds a second zero, which is exactly the missing phase. Designed
* by the K-factor method against the 10 uF plant and then verified:
*
*   plant           L 22 uH, C 10 uF, ESR 50 mohm, R 10 ohm -> LC corner
*                   10.7 kHz, ESR zero 318 kHz, modulator gain Vin/Vramp = 100
*   target          crossover 30 kHz (fsw/16), phase margin 55 deg
*   K factor        29 -> zero pair at 5.4 kHz, pole pair at 167 kHz
*   predicted       crossover 33.2 kHz, phase margin 59.1 deg, loop gain
*                   -26 dB at fsw/2 -- from the averaged model, and NOT a
*                   measurement. No phase margin is measured anywhere in this
*                   project: it needs an AC analysis about a periodic
*                   operating point, which ngspice cannot do on a switching
*                   deck. Do not quote 59 degrees as a result.
*
* AND THEN MEASURED, because the design model is an averaged ideal buck and
* this is not one. The K-factor values gave the right SHAPE and not enough
* gain: a 5 % reference step overshot by 109 % and took 119 us to settle,
* which is a loop crossing over near 2 kHz, not 33 kHz. The feedback branch
* was scaled (R2 up, C1 and C2 down by the same factor, so both corner
* frequencies stay put and only the gain moves) and the step response
* measured at each:
*
*     x1   overshoot 109 %   settles 119 us   ripple 0.173 V
*     x2   overshoot  53 %   settles  86 us   ripple 0.125 V
*     x4   overshoot  33 %   settles  52 us   ripple 0.115 V   <- shipped
*     x8   overshoot  38 %   settles  11 us   ripple 0.116 V
*
* x4 is shipped: best damped, exact DC, 0.23 % ripple. x8 settles faster but
* overshoots more and pushes the crossover closer to fsw/2, which is where
* the type-II attempt died. The gap between the analytic design and the
* measured one is the averaged model neglecting the driver, the dead time
* and the device losses -- it is reported rather than papered over, because
* a design procedure that needs a 4x empirical correction should say so.
*
* Network, around an inverting amplifier with its + input at the reference:
*   input    R1, with R3 + C3 in parallel across it  -> second zero and pole
*   feedback R2 + C1, with C2 across the pair        -> first zero and pole
.param R1C=10k
.param R3C=334
.param C3C=2.85n
.param R2C=11.6k
.param C1C=2.55n
.param C2C=82.5p
.param AOL=1e5
* ---- open-loop comparison ----
* OL=1 freezes the control node at VCFIX, breaking the loop while
* changing nothing else: same power stage, same modulator, same dead
* time, same drivers, same disturbances. The difference between the two
* runs is then the loop and only the loop.
.param OL=0
.param VCFIX=0.614                    $ the closed loop's own control level at nominal
* ---- schedule ----
.param TSS=600u                       $ soft-start ramp
.param TLOAD=900u
.param TLINE=1200u
.param TSTOP=1500u
* ==================== END PARAM BLOCK ==============================

.param KT    = {1 + 0.009*(TJ-25)}
.param BH_T  = {5.55/KT}
.param VTH_T = {1.4 - 0.0015*(TJ-25)}
.param TSW   = {1/FSW}
.param TR    = 0.5n
.param LLOOP = 3n
.param VREF  = {VOREF*KDIV}

* ---------------- input source, stepped at TLINE -------------------
Vin    vin 0 PWL(0 {VIN} {TLINE} {VIN} {TLINE+1u} {VSTEP})
Vsin   vin bus DC 0

* ---------------- power stage --------------------------------------
Rloop  bus n1  0.3
Lloop  n1  hstop {LLOOP}

* ---------------- bus decoupling -----------------------------------
* THIS WAS MISSING, AND IT COST 38 V OF OVERSHOOT.
* Without it the only path from the supply to the half-bridge is Rloop +
* Lloop, so every turn-on has to pull its current through 3 nH from an
* ideal source. scripts/output_audit.py opened the waveform and found the
* switch node reaching 168 V on a 100 V bus -- 84 % of the modelled
* device's rating -- as a ~0.6 ns spike at each high-side turn-on, where
* the node swings from the third-quadrant drop (-2.4 V) to the bus
* through that inductance and the low-side device's Coss.
*
* That is correct physics for a circuit with no decoupling, and no real
* GaN half-bridge is built that way: there is always ceramic right at the
* devices, and its loop is short. Modelled as a realistic part rather
* than an ideal capacitor -- 100 nF with its own ESL and ESR -- because
* an ideal one would flatter the result:
*
*     no decoupling        168 V   +68 %
*     100 nF, 0.5 nH ESL   116 V   +16 %     <- shipped
*     1 uF,   0.5 nH ESL   117 V   +17 %     (no better: ESL sets it)
*
* 1 uF buys nothing over 100 nF, which is the tell that the ESL and not
* the capacitance is what limits it. Slowing the turn-on with the
* segmented driver also helps (NPU_HS=2 gives 125 V) and costs switching
* energy; decoupling costs a part.
*
* NOTE sim/dpt.cir deliberately does NOT get this. It is the
* characterisation bench, its loop inductance is a swept parameter
* (scripts/lloop_analyse.py sweeps it from 1.0 to 4.5 nH), and adding a
* decoupling path would remove the quantity being swept.
.param CDEC=100n
.param LDEC=0.5n
* RDEC damps the decoupling branch, and the value matters more than it looks.
* At 20m this network is a series L-C with Q ~ 3.5 at ~22 MHz, and the
* switching edges pump it every cycle. At a 100 V bus that is survivable;
* at 200 V it rings the switch node to 464 V, drives the low-side gate to
* +11.78 V against a 1.4 V threshold and puts 112 A through a 10 A load.
* sim/dpt.cir has no decoupling network, which is why the double-pulse deck
* showed none of this and the two decks disagreed. At 1 ohm the branch is
* damped, the two decks agree (208.2 V here against dpt.cir's 207.3 V), and
* it is better at 100 V too: 118.0 V instead of 128.3, gate margin +2.37 V
* instead of +1.67, efficiency 97.42 % instead of 97.39, device dissipation
* 2.598 W instead of 2.800. See scripts/decoupling_damping.py.
.param RDEC=1
Ldec   hstop ndec1 {LDEC}
Cdec   ndec1 ndec2 {CDEC}
Rdec   ndec2 0     {RDEC}
Vshs   hstop hsd DC 0
Xhs    hsd hsg sw EGAN params: vth={VTH_T} bh={BH_T}
Vsls   sw  lsd DC 0
Xls    lsd lsg 0  EGAN params: vth={VTH_T} bh={BH_T}

* ---------------- output filter and load ---------------------------
Lo     sw  nlo {LOUT} IC=0
Vsout  nlo out DC 0
Resr   out nc  {ESR}
Co     nc  0   {COUT} IC=0
Rload  out 0   {RLOAD}

* load step: a second RSTEP in parallel, switched in at TLOAD
Vstep  stepc 0 PWL(0 0 {TLOAD} 0 {TLOAD+10n} 1)
Sstep  out nstep stepc 0 SWLOAD
Rstep  nstep 0 {RSTEP}
.model SWLOAD SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)

* ---------------- 1. feedback divider ------------------------------
Bfb    fb 0 V = {KDIV*v(out)}

* ---------------- soft-started reference ---------------------------
Vrefs  refs 0 PWL(0 0 {TSS} {VREF} {TSTOP} {VREF})

* ---------------- 2. type-III error amplifier ----------------------
* Ideal inverting amplifier: output = AOL x (ref - summing junction),
* saturating at the rails like a real part, with a small output
* resistance and a pole an order above crossover so the model does not
* pretend to infinite bandwidth.
Bea    ea_raw 0 V = {AOL*(v(refs)-v(eam)) < 0 ? 0 :
+                   (AOL*(v(refs)-v(eam)) > 1 ? 1 : AOL*(v(refs)-v(eam)))}
Rea    ea_raw comp 100
Cea    comp 0 1n

* input network: R1 in parallel with R3 + C3
R1c    fb  eam {R1C}
R3c    fb  n3c {R3C}
C3c    n3c eam {C3C}

* feedback network: R2 + C1, with C2 across
R2c    eam n1c {R2C}
C1c    n1c comp {C1C}
C2c    eam comp {C2C}

* keep the control node inside the ramp: a real error amplifier
* saturates at its rails and so must this one, or the duty ratio
* integrates to nonsense during soft start
Bclamp cmpc 0 V = {OL > 0.5 ? VCFIX :
+                   (v(comp) < 0.02 ? 0.02 : (v(comp) > 0.98 ? 0.98 : v(comp)))}

* ---------------- 3. modulator -------------------------------------
* Trailing-edge sawtooth, 0 to 1 over one switching period.
Vramp  ramp 0 PULSE(0 1 0 {TSW*0.97} {TSW*0.03} 0 {TSW})
Bpwm   pwmraw 0 V = {v(cmpc) > v(ramp) ? 1 : 0}

* ---------------- 4. dead-time generator ---------------------------
* A lossless line is the cleanest delay element ngspice has: no time
* constant to distort the edge, matched at both ends so nothing
* reflects. hs turns on DT after its command rises and off the instant
* it falls; ls is the complement, same rule. Both low during dead time,
* neither ever high together -- which is the property the RTL asserts.
Tdly   pwmraw 0 pwmd 0 Z0=50 TD={DT}
Rterm  pwmd 0 50
Bhs    pwmhs 0 V = {(v(pwmraw) > 0.5 && v(pwmd) > 0.5) ? 1 : 0}
Bls    pwmls 0 V = {(v(pwmraw) < 0.5 && v(pwmd) < 0.5) ? 1 : 0}

* ---------------- low-side driver (ground referenced) --------------
Vlsvp  lsvp 0 DC {VDRV}
Vlsvn  lsvn 0 DC {VNEG}
Blspu  lspu 0 V = {v(pwmls)}
Blspd  lspd 0 V = {1-v(pwmls)}
Blsclk lsclk 0 V = {CLKEN*(1-v(pwmls))}
Xdrvls lspu lspd lsclk lsg lsvp lsvn 0 SEGDRV
+      params: npu={NPU_LS} npd={NPD_LS} runit={RUNIT} rclamp=0.5

* ---------------- high-side driver (floating on SW) ----------------
Vhsvp  hsvp sw DC {VDRV}
Vhsvn  hsvn sw DC {VNEG}
Bhspu  hspu sw V = {v(pwmhs)}
Bhspd  hspd sw V = {1-v(pwmhs)}
Bhsclk hsclkl sw V = {CLKEN*(1-v(pwmhs))}
Xdrvhs hspu hspd hsclkl hsg hsvp hsvn sw SEGDRV
+      params: npu={NPU_HS} npd={NPD_HS} runit={RUNIT} rclamp=0.5

* ---------------- analysis -----------------------------------------
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
.ic v(sw)=0 v(lsg)={VDRV} v(hsg)={VNEG} v(out)=0 v(comp)=0

.tran 0.5n {TSTOP} 0 4n uic

.control
run
wrdata buck_closed.dat v(out) v(sw) v(comp) i(vsout) v(vin) i(vsin)
quit
.endc
.end
